US07326732B2
(ii) {3-[(3-Methyl-biphenyl-4-carbonyl)-amino]-phenyl}-acetic acid ethyl ester
[3-(4-Bromo-2-methyl-benzoylamino)-phenyl]-acetic acid ethyl ester (188 mg, 0.50 mmol) was coupled to phenylboronic acid using Method E, except that the reaction mixture was heated at 80° C. The crude residue was purified by column chromatography using 20% EtOAc in heptane to give the title compound.

reactant | [3-(4-Bromo-2-methyl-benzoylamino)-phenyl]-acetic acid ethyl ester | 0.50 mmol, 188 mg | C(C)OC(CC1=CC(=CC=C1)NC(C1=C(C=C(C=C1)Br)C)=O)=O | C18H18BrNO3
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | {3-[(3-Methyl-biphenyl-4-carbonyl)-amino]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)NC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)C)=O | C24H23NO3
